US09260408B2
N-((5-Bromopyridin-3-yl)methyl)-N-isopropylethanesulfonamide
In analogy to the procedure described for the preparation of intermediate A-42, ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11) was reacted with 2-iodopropane in presence of NaH (60% in mineral oil) to give the title compound as white solid after purification by reverse phase HPLC on a Gemini-NX column. MS: 323.1 (M+H+).

reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | NaH | [H-].[Na+]
product | N-((5-Bromopyridin-3-yl)methyl)-N-isopropylethanesulfonamide | BrC=1C=C(C=NC1)CN(S(=O)(=O)CC)C(C)C | C11H17BrN2O2S
